US06906060B2
1-(3,4-Dimethoxyphenyl)-4-(octahydropyrido[1,2-a]pyrazin-2-yl)butane-1,4-dione
360 mg of the title compound were prepared as described for 1-(3,4-dimethoxyphenyl)-4-((S)-hexahydropyrrolo[1,2-a]pyrazin-2-yl)butane-1,4-dione, using 1-(tert-butoxycarbonyl)piperidine 2 carboxylic acid instead of BOC-protected proline.

reactant | 1-(3,4-dimethoxyphenyl)-4-((S)-hexahydropyrrolo[1,2-a]pyrazin-2-yl)butane-1,4-dione | COC=1C=C(C=CC1OC)C(CCC(=O)N1C[C@H]2N(CC1)CCC2)=O | C19H26N2O4
reactant | 1-(tert-butoxycarbonyl)piperidine 2 carboxylic acid | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)O | C11H19NO4
product | 1-(3,4-Dimethoxyphenyl)-4-(octahydropyrido[1,2-a]pyrazin-2-yl)butane-1,4-dione | 360 mg | COC=1C=C(C=CC1OC)C(CCC(=O)N1CC2N(CC1)CCCC2)=O | C20H28N2O4
